US04341718
α-Hydroxy-β-(3-Methoxyphenoxy)-N-(1-Methylethyl)Benzenepropanamide
This compound was prepared from N-(1-methylethyl)-3-phenyl-2-oxiranecarboxamide (10.3 g.), m-methoxyphenol (6.2 g.), sodium hydride (50% oil dispersion, 2.4 g.), 18-crown-6 (1.5 g.) and acetonitrile (500 ml.) as described in Example 12. The crude product (m.p. 118°-120°, yield 2.6 g.) was then recrystallized from ether with a small amount of tetrahydrofuran, giving 2.3 g. of the pure product, m.p. 132°-133°.

reactant | N-(1-methylethyl)-3-phenyl-2-oxiranecarboxamide | 10.3 g | CC(C)NC(=O)C1OC1C1=CC=CC=C1 | C12H15NO2
reactant | m-methoxyphenol | 6.2 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 18-crown-6 | 1.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | α-Hydroxy-β-(3-Methoxyphenoxy)-N-(1-Methylethyl)Benzenepropanamide | OC(C(=O)NC(C)C)C(C1=CC=CC=C1)OC1=CC(=CC=C1)OC | C19H23NO4
